US07439399B2
Preparation of Atomoxetine Hydrochloride Form A
Atomoxetine (S)-(+)-Mandelate (5.17 g, 0.01267 mol) was mixed at room temperature with 25.5 ml of n-butyl acetate and 0.6 ml of toluene under stirring. Keeping the temperature between about 18° C. and about 20° C. by means of water-ice bath cooling, 1.4 g of aqueous (36.4% w/w) hydrogen chloride was added into the obtained slurry. The slurry was stirred for 1 hour at room temperature. The solid was collected by filtration, washed with 6 ml of n-butyl acetate and dried in vacuo at 65° C.

reactant | Atomoxetine (S)-(+)-Mandelate | 0.01267 mol, 5.17 g | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.C([C@@H](O)C1=CC=CC=C1)(=O)[O-]
reactant | n-butyl acetate | 25.5 ml | C(C)(=O)OCCCC | C6H12O2
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 0.6 ml | C1(=CC=CC=C1)C | C7H8
product | Atomoxetine Hydrochloride | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.Cl | InChI=1S/C17H21NO.ClH/c1-14-8-6-7-11-16(14)19-17(12-13-18-2)15-9-4-3-5-10-15;/h3-11,17-18H,12-13H2,1-2H3;1H/t17-;/m1./s1
